US08106215B2
A.4.1 Synthesis of (1S,2S,5R)-2-[(2,2,2-trifluoro-acetylamino)-methyl]-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester
Ethyl trifluoroacetate (0.7 mL, 1.4 eq) was added to a solution of (1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester (1.1 g) in dry THF (14 mL). The reaction mixture was stirred at RT for 1 h. Solvent and excess ethyl trifluoroacetate were evaporated in vacuo. The resulting product was then used for the next step without purification

reactant | Ethyl trifluoroacetate | 0.7 mL, 1.4 eq | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | (1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CN | C14H26N2O2
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (1S,2S,5R)-2-[(2,2,2-trifluoro-acetylamino)-methyl]-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CNC(C(F)(F)F)=O | C16H25F3N2O3
